US06589968B2
(b) (4S)-3-[(2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoyl]-4-benzyloxazolidinone
A solution of (4S)-3-[(2S,3S,6R,7S,8S)-5-oxo-3-hydroxy-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoyl]-4-benzyloxazolidinone (2.6 g), imidazole (0.48 g), and triethylsilyl chloride (0.68 g) in 5 mL of dimethylformamide is stirred for 2 hours at ambient temperature, then poured into water and extracted with ether. The extract is washed with sat. aq. NaCl, dried over MgSO4, filtered, and evaporated. The product is purified by chromatography on SiO2.

reactant | (4S)-3-[(2S,3S,6R,7S,8S)-5-oxo-3-hydroxy-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoyl]-4-benzyloxazolidinone | 2.6 g | O=C(C([C@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C)O)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C29H38Cl3NO8
reactant | imidazole | 0.48 g | N1C=NC=C1 | C3H4N2
reactant | triethylsilyl chloride | 0.68 g | C(C)[Si](CC)(CC)Cl | C6H15ClSi
reactant | water | O | H2O
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | (4S)-3-[(2S,3S,6R,7S,8S)-5-oxo-3-(triethylsilyloxy)-2,4,4,6,8-pentamethyl-7-(2,2,2-trichloroethoxycarbonyloxy)-10-undecenoyl]-4-benzyloxazolidinone | O=C(C([C@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)C)O[Si](CC)(CC)CC)(C)C)[C@@H]([C@H]([C@H](CC=C)C)OC(=O)OCC(Cl)(Cl)Cl)C | C35H52Cl3NO8Si
